US05344845
Using 8.9 g of 4-acetoxy-3-methoxycinnamoyl chloride, 3.81 g of 4,4-dimethyl-1-cyclohexylamine, and 100 ml of pyridine, a reaction similar to that conducted in Example 53 was carried out. As a result, 8.99 g of N-(4,4-dimethylcyclohexyl)-4-acetoxy-3-methoxycinnamamide (a compound of the present invention) was obtained as white crystal, which had the following physiochemical properties:

reactant | 4-acetoxy-3-methoxycinnamoyl chloride | 8.9 g | C(C)(=O)OC1=C(C=C(C=CC(=O)Cl)C=C1)OC | C12H11ClO4
reactant | 4,4-dimethyl-1-cyclohexylamine | 3.81 g | CC1(CCC(CC1)N)C | C8H17N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N-(4,4-dimethylcyclohexyl)-4-acetoxy-3-methoxycinnamamide | 8.99 g | CC1(CCC(CC1)NC(C=CC1=CC(=C(C=C1)OC(C)=O)OC)=O)C | C20H27NO4
